2100-07-22 06:33:00 Physician Resident Progress Note
TITLE: TSICU PROGRESS NOTE
   Chief Complaint: s/p gunshot wound
   24 Hour Events:
 ENDOSCOPY - At [**2100-7-21**] 12:15 PM
   endoscopy of lt nare for largyngeal edema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2100-7-22**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2100-7-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2100-7-21**] 08:00 PM
   Fentanyl - [**2100-7-22**] 02:45 AM
   Other medications:
   1. 2. Acetaminophen 3. Chlorhexidine Gluconate 0.12% Oral Rinse 4.
   Clindamycin 5. Dexamethasone
   6. Docusate Sodium (Liquid) 7. Fentanyl Citrate 8. Heparin 9. Insulin
   10. Lorazepam 11. Magnesium Sulfate
   12. Metoclopramide 13. Ondansetron 14. Oxymetazoline 15. Propofol 16.
   Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-7-22**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 59 (54 - 99) bpm
   BP: 120/51(66) {105/46(61) - 139/73(88)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 70 kg (admission): 65 kg
   Height: 66 Inch
             Total In:
                                                                  4,320 mL
                                                                    352 mL
   PO:
             TF:
                                                                  1,412 mL
                                                                     80 mL
   IVF:
                                                                  2,368 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                    775 mL
   Urine:
                                                                  4,315 mL
                                                                    600 mL
   NG:
   175 mL
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (414 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 28%
   RSBI: 45
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, R facial swelling unchanged
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, facial nerve function intact
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   10.8 g/dL
   152 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.9 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   31.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2100-7-19**]  01:30 AM
                             [**2100-7-19**]  01:45 AM
                             [**2100-7-19**]  04:53 AM
                             [**2100-7-20**]  03:43 AM
                             [**2100-7-20**]  07:30 AM
                             [**2100-7-20**]  02:52 PM
                             [**2100-7-21**]  12:21 AM
                             [**2100-7-21**]  12:54 AM
                             [**2100-7-21**]  04:22 PM
                             [**2100-7-22**]  02:00 AM
   WBC
   16.8
   9.2
   10.4
   8.4
   13.5
   Hct
   36.9
   33.0
   32.0
   27.8
   31.0
   Plt
   [**Telephone/Fax (3) 4783**]59
   222
   Cr
   1.1
   0.9
   0.7
   0.7
   0.8
   0.7
   TCO2
   26
   24
   29
   31
   Glucose
   108
   134
   114
   112
   165
   152
   Other labs: PT / PTT / INR:14.4/27.6/1.3, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:2.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: [**7-18**] CT head: No acute intracranial pathology identified
   [**7-18**] CT face: comminuted R mandibular ramus fx (wet)
   [**7-18**] CT Cspine:  No acute cervical fracture or malalignment.
   [**7-18**] CTA neck: Findings concerning for dissection of the right external
   carotid artery ext into the parotid gland with abrupt transition
   between a stenotic segment and a dilated segment concerning for
   dissection. There is also beading of the right facial artery which
   could represent a post-traumatic spasm.
   CXR: ET tube advanced 2 cm
   [**7-19**] CT Mandible - Persistent RT mandibular ramus fx, comminuted, with
   less overlapping of fx frags compared to the preop. Decr in number of
   radiodense bullet frag adj to frx. Persistent swelling/hematoma
   Microbiology: None
   Assessment and Plan
   HPI: 18M s/p gunshot wound to R face
   ISSUES:
   (1) comminuted fx R mandible s/p fixation
   (2) R external carotid dissection
   Neurologic: alert , awake , responsive off propofol, intact facial
   nerve exam, Fentanyl PRN pain, Propofol gtt
   Cardiovascular: HD Stable - repeat CTA today to assess carotid
   dissection
   Pulmonary: Extubate over cook cath if + airleak - ENT will try to be at
   bedside for possible scope after extubated
   Gastrointestinal / Abdomen: TFs on hold for extubation, on
   Zofran/Reglan.  Wire cutters at bedside.
   Nutrition: Start diet once extubated
   Renal: Adequate UO, D/C Foley when extubated
   Hematology: stable  hct
   Endocrine: RISS
   Infectious Disease: stable white count , on clinda for prophylaxis -
   will discuss w/ OMFS re: duration
   Lines / Tubes / Drains: Foley, NGT, ETT
   Wounds: Dry dressings
   Imaging:
   Fluids: D5 1/2 NS
   Consults: Trauma surgery, Vascular surgery, Plastics, OMFS
   Billing Diagnosis:  respiratory distress
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2100-7-20**] 12:00 PM
   20 Gauge - [**2100-7-22**] 02:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU